US08431695B2
Preparation of 4-{4-amino-5-[2-(cyclobutylmethyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-7-yl}-N,N-dimethylpiperidine-1-carboxamide
In a manner similar to the procedure described for Example 369 and using 5-[2-(cyclobutylmethyl)-2H-indazol-6-yl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine and substituting dimethylcarbamyl chloride for 2-chloro-N,N-dimethylacetamide as starting materials, 60 mg, (85%) of the desired product was isolated. LC-MS [M+H]+=473.3, RT=2.55 min.

reactant | 5-[2-(cyclobutylmethyl)-2H-indazol-6-yl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | C1(CCC1)CN1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C23H27N7
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 4-{4-amino-5-[2-(cyclobutylmethyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-7-yl}-N,N-dimethylpiperidine-1-carboxamide | 85% | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)C(=O)N(C)C)C=2C=CC1=CN(N=C1C2)CC2CCC2 | C26H32N8O
